US07618961B2
Ethyl (2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)(oxo)acetate
The title compound was prepared from ethyl (2-amino-4-thiazolyl)glyoxylate and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (32.5 mg) with purity >90%. LCMS (pos) m/z 389.0.B

reactant | ethyl (2-amino-4-thiazolyl)glyoxylate | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | Ethyl (2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)(oxo)acetate | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C(C(=O)OCC)=O)C | C14H13ClN2O5S2
